US05561150
A solution of 1.63 g (7.98 mmol) of 2-hydroxy-methylene-7-methoxy-1-tetralone, 0.87 g (9.65 mmol) of (RS)-1-hydrazino-2-propanol and 100 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator for 1.5 hours. After concentration in a vacuum, the reaction mixture S was purified by column chromatography on silica gel (ethyl acetate/hexane 1:1). 1.52 g (74%) of (RS)-1-(4,5-dihydro-8-methoxy-1H-benz[g]indazol-1-yl)-propan-2-ol were obtained as a yellow oil which was used directly in the next reaction.

reactant | 2-hydroxy-methylene-7-methoxy-1-tetralone | 7.98 mmol, 1.63 g | OC1C(C2=CC(=CC=C2CC1=C)OC)=O | C12H12O3
reactant | (RS)-1-hydrazino-2-propanol | 9.65 mmol, 0.87 g | N(N)CC(C)O | C3H10N2O
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(4,5-dihydro-8-methoxy-1H-benz[g]indazol-1-yl)-propan-2-ol | 1.52 g, 74% | COC1=CC2=C(CCC=3C=NN(C23)CC(C)O)C=C1 | C15H18N2O2
